US07547691B2
2-{5-Bromo-2-[3-(4-methyl-[1,4]diazepan-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized as a yellow solid from 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 3-(4-methyl-[1,4]diazepan-1-yl)-propylamine. ES+(m/z) 543 (79Br) and 545 (81Br) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C
reactant | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C16H11BrClN3OS
reactant | 3-(4-methyl-[1,4]diazepan-1-yl)-propylamine | CN1CCN(CCC1)CCCN | C9H21N3
product | 2-{5-Bromo-2-[3-(4-methyl-[1,4]diazepan-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCCN2CCN(CCC2)C | InChI=1S/C25H31BrN6OS.3ClH/c1-31-10-4-12-32(14-13-31)11-3-9-27-25-28-16-20(26)23(30-25)22-15-19-18(5-2-6-21(19)34-22)24(33)29-17-7-8-17;;;/h2,5-6,15-17H,3-4,7-14H2,1H3,(H,29,33)(H,27,28,30);3*1H
